US07902375B2
Step 1: (2-tert-Butylcarbamoyl-ethyl)-carbamic acid tert-butyl ester
A solution of 3-tert-Butoxycarbonylamino-propionic acid (0.5 g, 2.64 mmol) in DCM (5 ml) under an inert atmosphere is treated with 1-hydroxy-7-azabenzatriazole (0.108 g, 0.79 mmol) followed by water soluble carbodiimide (0.491 g, 3.17 mnol) and tert-butylamine (0.305 ml, 2.91 mmol). The reaction mixture is stirred at room temperature for 3 hours and then citric acid (10 ml, 0.5 M) is added to the solution and extracted with DCM (2×10 ml). The combined organic layers are washed with brine (10 ml) and dried over MgSO4. After filtration, the solvent is removed in vacuo to yield the titled compound as an oil.

reactant | 3-tert-Butoxycarbonylamino-propionic acid | 2.64 mmol, 0.5 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | water soluble carbodiimide | 0.491 g | CCN=C=NCCCN(C)C.Cl
reactant | tert-butylamine | 2.91 mmol, 0.305 ml | C(C)(C)(C)N | C4H11N
reactant | citric acid | 0.5 M, 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (2-tert-Butylcarbamoyl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(NC(C)(C)C)=O)=O | C12H24N2O3
